data/oMe_Silver.jsonl
{"reaction_id": "NR-241_1-c1ccc(C(F)(F)F)cc1_2-COCC_3-CC(Cl)(Cl)Cl_4-c1ccc(C#N)cc1","level": "medium","name": "Still-Gennari Reaction","reactants_smiles": ["c1ccc(C(F)(F)F)cc1C(=O)[H]","COCCOC(=O)CP(=O)(OCC(Cl)(Cl)Cl)(Oc1ccc(C#N)cc1)","[N-]([Si](C)(C)C)[Si](C)(C)C"],"products_smiles": ["c1ccc(C(F)(F)F)cc1/C=C\\C(=O)OCOCC"],"conditions": "","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "COCCOC(=O)[CH-]P(=O)(OCC(Cl)(Cl)Cl)(Oc1ccc(C#N)cc1)","step_weight": 0,"rationale": "The strong, non-nucleophilic base removes the acidic α-proton next to the phosphonate, stabilized by electron-withdrawing ester and phosphoryl groups via resonance and inductive effects."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "COCCOC(=O)C(P(=O)(OCC(Cl)(Cl)Cl)(Oc1ccc(C#N)cc1))C([O-])c1ccc(C(F)(F)F)cc1","step_weight": 0,"rationale": "The nucleophilic carbanion attacks the electrophilic carbonyl carbon of the aldehyde, driven by the strong polarization of the C=O bond and minimal steric hindrance."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "COCCOC(=O)C1C(c1ccc(C(F)(F)F)cc1)OP1([O-])(OCC(Cl)(Cl)Cl)(Oc1ccc(C#N)cc1)","step_weight": 0,"rationale": "Intramolecular cyclization to the oxaphosphetane is favored due to proximity effects and stabilization from the phosphoryl oxygen, locking in the (Z)-geometry."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1ccc(C(F)(F)F)cc1/C=C\\C(=O)OCOCC","step_weight": 0,"rationale": "Collapse of the oxaphosphetane eliminates the phosphate group, a good leaving group stabilized by resonance, to form the thermodynamically favored (Z)-alkene ester."}],"description": "A strong, non-nucleophilic base deprotonates the electron-withdrawing phosphonate to form a stabilized carbanion, which adds to the aldehyde. Rapid cyclization to an oxaphosphetane intermediate ensures (Z)-selectivity, followed by elimination of the phosphate to yield the (Z)-alkene ester."}
{"reaction_id": "NR-115_10-c1ccc(F)cc1_1-C1CCCCC1_2-Br_3-N(C)C_4-CCCC_5-CC_6-Cc1ccccc1_7-c1cnccc1_8-c1ccccc1_9-C","level": "medium","name": "Ireland-Claisen Rearrangement","reactants_smiles": ["C(=C(N(C)C)C(O/C(=C(/Cc1ccccc1)c1cnccc1)/O[Si](c1ccccc1)(C)(c1ccc(F)cc1))(CC)CCCC)(C1CCCCC1)Br"],"products_smiles": ["C(=C(N(C)C)C(C(C(=O)O[Si](c1ccccc1)(C)(c1ccc(F)cc1))(c1cnccc1)Cc1ccccc1)(CC)CCCC)(C1CCCCC1)Br"],"conditions": "Heat","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "C(=C(N(C)C)C(C(C(=O)O[Si](c1ccccc1)(C)(c1ccc(F)cc1))(c1cnccc1)Cc1ccccc1)(CC)CCCC)(C1CCCCC1)Br","step_weight": 0,"rationale": "Thermal activation enables a concerted [3,3]-sigmatropic shift via a six-membered transition state, favored by the stability of the resulting carbonyl and relief of allylic strain in the silyl ketene acetal."}],"description": "Upon heating, the silyl ketene acetal undergoes a [3,3]-sigmatropic Ireland–Claisen rearrangement, shifting the allyl group to form a new C–C bond adjacent to the carbonyl. The process is thermally allowed and driven by the formation of a more stable, conjugated carbonyl system."}
{"reaction_id": "NR-052_1-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_2-C(C)(C)C_3-CC","name": "Curtius Rearrangement","level": "medium","reactants_smiles": ["C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(C)(C)C)(CC)C(=O)N=[N+]=[N-]"],"products_smiles": ["C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(C)(C)C)(CC)N=C=O"],"conditions": "Heat","mechnism_text_description": "The Curtius rearrangement is the thermal decomposition of an acyl azide to form an isocyanate with the loss of nitrogen gas (N2). The reaction typically proceeds via a concerted mechanism where the alkyl or aryl group (R) attached to the carbonyl carbon migrates to the nitrogen atom simultaneously with the expulsion of dinitrogen. This migration results in the formation of an isocyanate.","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(C)(C)C)(CC)N=C=O","step_weight": 0,"rationale": "Thermal energy promotes a concerted migration of R from carbon to nitrogen, facilitated by the excellent leaving ability of N₂ and stabilization of the developing positive charge on nitrogen, yielding the thermodynamically favored isocyanate."}],"description": "Upon heating, the acyl azide undergoes a concerted 1,2-shift where the R group migrates from the carbonyl carbon to the adjacent nitrogen. This rearrangement is driven by the release of stable N₂ gas and formation of the isocyanate."}
